US06133262
A. 1-(4-Nitro-2-methoxybenzyl)pyrrolidine
A mixture of 4-nitro-2-methoxytoluene (5 g, 30 mmol), N-bromosuccinimide (5.3 g, 30 mmol), azobisisobutyronitrile (AIBN, 10 mg) and CCl4 was refluxed for 60 h. The reaction mixture was cooled to 0° C., filtered through diatomaceous earth and concentrated under vacuum. The resulting oil was redissolved in THF (50 mL) and added portionwise to a cold (0° C.) stirred solution of pyrrolidine (10.65 g, 150 mmol). Afterwards, the cooling bath was removed and the reaction was stirred at ambient temperature for 1 h. It was then concentrated to an oil, diluted with 100 mL saturated aqueous NaHCO3 and 50 mL brine. Following extraction three times with 125 mL EtOAc, the combined organic layer was dried over MgSO4 and concentrated to 6.5 g of an oil. Purification by chromatography (SiO2 ; 30% EtOAc in hexanes) yielded 5.7 g (24 mmol, 80%) of the desired compound as an oil.

reactant | 4-nitro-2-methoxytoluene | 30 mmol, 5 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)OC | C8H9NO3
reactant | N-bromosuccinimide | 30 mmol, 5.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | pyrrolidine | 150 mmol, 10.65 g | N1CCCC1 | C4H9N
catalyst | azobisisobutyronitrile | 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-Nitro-2-methoxybenzyl)pyrrolidine | 24 mmol, 5.7 g, 80% | [N+](=O)([O-])C1=CC(=C(CN2CCCC2)C=C1)OC | C12H16N2O3
